US07560551B2
4-(2-(4-nitrophenoxy)phenyl)pyrimidin-2-amine (0.280 g, 0.908 mmol) and palladium, 10 wt. % (dry basis) on activated carbon 50% water wet (0.193 g, 0.182 mmol) were combined under nitrogen and diluted with 5 mL MeOH. The atmosphere was replaced with hydrogen, and the mixture was stirred rapidly overnight. The reaction was flushed with nitrogen and was filtered through celite, rinsing with MeOH. Concentration in vacuo afforded 4-(2-(4-aminophenoxy)phenyl)pyrimidin-2-amine MS m/z=279 [M+H]+. Calc'd for C16H14N4O: 278.3.

reactant | 4-(2-(4-nitrophenoxy)phenyl)pyrimidin-2-amine | 0.908 mmol, 0.280 g | [N+](=O)([O-])C1=CC=C(OC2=C(C=CC=C2)C2=NC(=NC=C2)N)C=C1 | C16H12N4O3
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 5 mL | CO | CH4O
catalyst | palladium | [Pd] | Pd
product | 4-(2-(4-aminophenoxy)phenyl)pyrimidin-2-amine | NC1=CC=C(OC2=C(C=CC=C2)C2=NC(=NC=C2)N)C=C1 | C16H14N4O
